US05416065
46.4 g of hydrazine-N,N'-dicarboxylic acid di-tert-butyl ester, 69.0 g of potassium carbonate, 3.3 g of potassium iodide, 20 ml of tetrabutylammonium fluoride (1 molar solution in tetrahydrofuran) and 21 ml of epibromohydrin are boiled under reflux for 48 hours in 400 ml of ethyl methyl ketone. The resulting suspension is concentrated, and 500 ml of diethyl ether are added thereto; the reaction mixture is then filtered and the tiltrate is concentrated. Purification of the crude product by means of column chromatography yields 27.1 g of the desired 4-hydroxy-pyrazolidine-N,N'-dicarboxylic acid di-tert-butyl ester in the form of white crystals; m.p. 100°-102° C.

reactant | hydrazine-N,N'-dicarboxylic acid di-tert-butyl ester | 46.4 g | C(C)(C)(C)OC(=O)NNC(=O)OC(C)(C)C | C10H20N2O4
reactant | potassium carbonate | 69.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.3 g | [I-].[K+]
reactant | tetrabutylammonium fluoride | 1 molar, 20 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | epibromohydrin | 21 ml | C(Br)C1CO1 | C3H5BrO
solvent | ethyl methyl ketone | 400 ml | CC(=O)CC | C4H8O
product | 4-hydroxy-pyrazolidine-N,N'-dicarboxylic acid di-tert-butyl ester | 27.1 g | C(C)(C)(C)OC(=O)N1N(CC(C1)O)C(=O)OC(C)(C)C | C13H24N2O5
